US07728016B2
1-(5-Chloro-2,4-dimethoxy-phenyl)-5-(4-fluoro-phenyl)-1H-[1,2,3]triazole-4-carboxylic acid
1-Azido-5-chloro-2,4-dimethoxy-benzene (0.4 g, 1.9 mmol), 3-(4-Fluoro-phenyl)-3-oxo-propionic acid methyl ester (0.42 g, 2.2 mmol) and sodium ethoxide in EtOH (70 mg of sodium in 15 mL EtOH) were refluxed for 3 hours. During the reaction, the solution turned brown from dark green. After that, EtOH was evaporated off and the resulting oil was dried in vacuum. Trituration with ether (15 mL) gave light brown solids, which were removed by filtration and washed with ether. The solids then re-dissolved in CHCl3 and filtered. After evaporation of the solvent, light brown solids were obtained (0.35 g, 50%).

reactant | 1-Azido-5-chloro-2,4-dimethoxy-benzene | 1.9 mmol, 0.4 g | N(=[N+]=[N-])C1=C(C=C(C(=C1)Cl)OC)OC | C8H8ClN3O2
reactant | 3-(4-Fluoro-phenyl)-3-oxo-propionic acid methyl ester | 2.2 mmol, 0.42 g | COC(CC(=O)C1=CC=C(C=C1)F)=O | C10H9FO3
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | EtOH | 15 mL, 70 mg | CCO | C2H6O
product | 1-(5-Chloro-2,4-dimethoxy-phenyl)-5-(4-fluoro-phenyl)-1H-[1,2,3]triazole-4-carboxylic acid | ClC=1C(=CC(=C(C1)N1N=NC(=C1C1=CC=C(C=C1)F)C(=O)O)OC)OC | C17H13ClFN3O4
